US06264917B1
ii) Synthesis of methyl 4-[2-hydroxy-3-[(1-methylethyl)amino]propoxy]phenylacetate
A mixture of methyl 4-[(2,3-epoxy)propoxy]phenylacetate (2.00 g, 9.00 mmol), isopropylamine (23 ml, 0.27 mol) and water (1.35 ml, 74.7 mmol) was stirred at room temperature overnight. The reaction mixture was concentrated (rotavapor) and the oily residue was dissolved in chloroform and dried (Na2SO4). Filtration and concentration gave quantitative yield of a yellow oil that was used in the next step without further purification. The structure was verified by 1H and 13C NMR analysis.

reactant | methyl 4-[(2,3-epoxy)propoxy]phenylacetate | 9.00 mmol, 2.00 g | O1C(COC2=CC=C(C=C2)CC(=O)OC)C1 | C12H14O4
reactant | isopropylamine | 0.27 mol, 23 ml | C(C)(C)N | C3H9N
reactant | water | 74.7 mmol, 1.35 ml | O | H2O
product | methyl 4-[2-hydroxy-3-[(1-methylethyl)amino]propoxy]phenylacetate | quantitative yield | OC(COC1=CC=C(C=C1)CC(=O)OC)CNC(C)C | C15H23NO4
